US05488055
A mixture of N-(1-phenylmethylpyrazol-5-yl) anthranilic acid (6 g) and POCl3 (60 ml) was heated on a steam bath overnight. The reaction mixture was poured into ice-water, neutralized with NH4OH and the precipitate which formed was collected by filtration, washed with water and dried to afford 5 g of 1-phenylmethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline, as a light brown powder.

reactant | N-(1-phenylmethylpyrazol-5-yl) anthranilic acid | 6 g | C1(=CC=CC=C1)CN1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C17H15N3O2
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 60 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-phenylmethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 5 g | C1(=CC=CC=C1)CN1N=CC=2C1=NC1=CC=CC=C1C2Cl | C17H12ClN3
